US07476670B2
Stage 1: 6-(1H-benzimidazol-1-yl)-2-chloro-9H-purine
The same procedure as in Example 1 is carried out, starting from 1.89 g of 2,6-dichloropurine, 40 ml of butanol and 1.30 g of benzimidazole. 1.1 g of expected product are obtained.

reactant | 2,6-dichloropurine | 1.89 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | benzimidazole | 1.30 g | N1=CNC2=C1C=CC=C2 | C7H6N2
solvent | butanol | 40 ml | C(CCC)O | C4H10O
product | 6-(1H-benzimidazol-1-yl)-2-chloro-9H-purine | 1.1 g | N1(C=NC2=C1C=CC=C2)C2=C1N=CNC1=NC(=N2)Cl | C12H7ClN6
